Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, BRBPR
 
Major Surgical or Invasive Procedure:
___ guided liver biopsy on ___

 
History of Present Illness:
This is a ___ male with no past medical history who
presents with a chief complaint of right lower quadrant 
abdominal
pain of one days duration, as well as 3 months of intermittent
bright red blood per rectum.  He is admitted due to abnormal CT
abdomen pelvis findings concerning for new diagnosis of
malignancy.

Patient states he has generally been in his otherwise excellent
state of health as recently as the weekend (he went to the gym
and was on the elliptical ___ and ___.  In the evening
on ___ (2 days prior to arrival),  the patient was moving
Christmas tree into his house.  The morning after that, he had
some mild right lower quadrant discomfort that progressed and
became worse, to the point where the pain felt like "like I got
shot."  He spent most of ___ evening off of his feet, and
noticed that his pain got worse with lying down.  On ___ 
(day
of arrival), the patient felt like his abdominal pain was a
little bit better.  However, it was worse with walking.  He
called his primary care doctor, who was worried about
appendicitis; he told the patient to present directly to the 
___ emergency department for evaluation of same.

Patient's abdominal pain at present is much improved, rated a 1
out of 10.  It radiates into the groin, particularly the right
testicle; it also radiates somewhat to the back.  It is
exacerbated by walking; it is improved by lying down.  He has 
not
identified any other exacerbating or palliating features.

Patient also complains of approximately 2 months of intermittent
bright red blood per rectum.  The amount of blood ranges 
anywhere
from small amounts on the toilet paper to "looking like it was
sprayed all over the toilet bowl."  He feels like the blood in
his stool is generally associated with straining, as well as 
when
he has difficulty emptying his bladder; he has not otherwise
constipated, and has 1 soft bowel movement per day.

In the ED, initial vitals:  T 97.5 BP 147/90 HR 72 RR 16 O2 100%
on RA
- Exam notable for:  
"Exam: Gen: Comfortable, No Acute Distress
HEENT: NC/AT. EOMI. 
Neck: No swelling. Trachea is midline. No JVD
Cor: RRR. No m/r/g. 
Pulm: CTAB, Nonlabored respirations. 
Abd: Soft, NT, ND. No tenderness to palpation.
GU: Right testicle in possibly horizontal lie. Nontender to
palpation. No obvious hernia.
Rectal: No obvious fissures or external hemorrhoids. No gross
blood. Guaiac positive.
Ext: No edema, cyanosis, or clubbing. 
Skin: No rashes. No skin breakdown
Neuro: AAOx3. Gross sensorimotor intact. 
Psych: Normal mentation. 
Heme: No petechia. No ecchymosis."
- Labs notable for:
-Hemoglobin 14.6, white count 8.4
-Chem-7 within normal limits, with the exception of mild
hyperglycemia (glucose 142)
-ALT 56, AST 50; other LFTs within normal limits
-Lipase 31
-Lactate 3.0 on arrival, down trended to 1.0
- Imaging notable for:  
CT ABDOMEN PELVIS W/CONTRAST ___, final report):
1. 3.8 cm soft tissue pelvic mass with internal calcifications
abuts the right lateral aspect of the rectum and may reflect an
exophytic rectal mass, such as a GIST tumor.  Multiple adjacent
calcified soft tissue nodules in the mesorectal fat and coursing
superiorly along the IMV are concerning for metastatic lymph
nodes. 
2. Numerous hepatic metastases. 

- Pt given:
-1 L normal saline
-P.o. Tylenol

- Vitals prior to transfer: T 98 BP 151/92 HR 83 RR 18 O2 98% on
room air

SCROTAL ULTRASOUND ___, prelim report):
Normal scrotal ultrasound.

On the floor, the patient endorses the above history.  He is
accompanied by his wife, ___.    

REVIEW OF SYSTEMS: As per HPI.  In addition, Pt had one episode
of nausea on ___ without vomiting.  He has also had
intermittent "clammy" night sweats.  He denies hematuria and
hematospermia.  

Otherwise, a 10 point review of systems is negative.
 
 
Past Medical History:
No significant medical history.  
 
Social History:
-Tobacco:  Former chewing tobacco, none in ___ years.  Would go
through 1 can of chew every 3 days.  No other tobacco products.
-EtOH:  Drinks on average 3 glasses of wine per day.  Occasional
liquor on weekends (vodka).
-Illicits:  Never used any illicit drugs
-Occupation: ___
-Living situation:  Married to his wife, ___, for ___ 
years.
He is sexually monogamous.  He has never had any history of
STD's.

 
Family History:
Maternal grandfather with a heart attack in his ___.  Maternal
grandmother with unknown cancer diagnosis "when she was young." 
Paternal grandmother with unknown cancer diagnosis, who passed 
in
her ___.  Father with atrial fibrillation.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS:  T 98.1 BP 134/80 HR 75 RR 18 O2 93% on RA
General: Pleasant and cooperative, well built gentleman. 
Pleasant and cooperative, in no acute distress.  
HEENT: Sclerae anicteric, MMM.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: NABS.  Abdomen is soft, nondistended, minimally tender
to palpation in the RLQ.  No rebound tenderness or guarding. 
There is no hepatosplenomegaly.
GU: No foley.  There is no testicular asymmetry or pain to
palpation, no swelling/tenderness of the epididymal heads.  No
palpable hernias.  
Ext: Warm, well perfused, 2+ posterior tibialis pulses, no
clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII grossly intact, moves all four extremities with
purpose.

DISCHARGE PHYSICAL EXAM
=======================
VS: VSS
General: Pleasant and cooperative, well built gentleman. 
Pleasant and cooperative, in no acute distress.  
HEENT: Sclerae anicteric, MMM.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Abdomen is soft, nondistended, nontender.  No rebound
tenderness or guarding.  There is no hepatosplenomegaly.
GU: No foley. 
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII grossly intact, moves all four extremities with
purpose.
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:39PM BLOOD WBC-8.4 RBC-4.60 Hgb-14.6 Hct-44.4 MCV-97 
MCH-31.7 MCHC-32.9 RDW-12.4 RDWSD-43.4 Plt ___
___ 03:39PM BLOOD Neuts-54.0 ___ Monos-11.2 Eos-4.1 
Baso-0.6 Im ___ AbsNeut-4.54 AbsLymp-2.49 AbsMono-0.94* 
AbsEos-0.34 AbsBaso-0.05
___ 06:15AM BLOOD ___ PTT-28.3 ___
___ 03:39PM BLOOD Glucose-142* UreaN-17 Creat-0.9 Na-142 
K-4.9 Cl-99 HCO3-29 AnGap-14
___ 03:39PM BLOOD ALT-56* AST-50* LD(LDH)-553* AlkPhos-103 
TotBili-1.3
___ 06:15AM BLOOD Albumin-4.2 Calcium-9.3 Phos-3.8 Mg-2.1 
UricAcd-4.8
___ 03:53PM BLOOD Lactate-3.0*

IMAGING
=======
SCROTAL ULTRASOUND ___: Normal scrotal ultrasound. 
  
CT A/P WITH CONTRAST ___: 
1. 3.8 cm soft tissue pelvic mass with internal calcifications 
abuts the right 
lateral aspect of the rectum and may reflect an exophytic rectal 
mass, such as 
a GIST tumor.  Multiple adjacent calcified soft tissue nodules 
in the 
mesorectal fat and coursing superiorly along the IMV are 
concerning for 
metastatic lymph nodes. 
2. Numerous hepatic metastases. 

CT CHEST WITH CONTRAST ___:
No metastatic disease to the thorax.  No suspicious pulmonary 
nodules.  No 
adenopathy.  No pleural abnormalities. 

PATHOLOGY
=========
___ GUIDED LIVER BIOPSY ___: PRELIM READ: adenocarcinoma with 
high suspicion for GI primary.

MICROBIOLOGY
============
___ 11:02 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE/INTERVAL LABS
========================
___ 06:15AM BLOOD WBC-7.1 RBC-4.45* Hgb-14.2 Hct-41.7 
MCV-94 MCH-31.9 MCHC-34.1 RDW-12.1 RDWSD-41.6 Plt ___
___ 06:53AM BLOOD ___ PTT-30.3 ___
___ 06:15AM BLOOD Glucose-107* UreaN-13 Creat-1.0 Na-142 
K-4.7 Cl-102 HCO3-27 AnGap-13
___ 06:15AM BLOOD ALT-61* AST-49* LD(___)-585* AlkPhos-105 
TotBili-1.5
___ 06:15AM BLOOD Calcium-9.3 Phos-4.3 Mg-2.1 UricAcd-5.1
___ 08:58PM BLOOD Lactate-1.___ male with no significant past medical history 
presents with a chief complaint of right lower quadrant 
abdominal pain of one day duration, as well as bright red blood 
per rectum over the past 2 months in the setting of intermittent 
straining/constipation, found on CT scan to have a pelvic mass 
with metastatic spread to the liver. Patient underwent ___ guided 
biopsy of liver lesion on ___ with preliminary path showing 
adenocarcinoma with suspicion for GI primary.

ACUTE/ACTIVE PROBLEMS:  
======================
# ABDOMINAL PAIN with
# PELVIC MASS and
# BRIGHT RED BLOOD PER RECTUM with
# CONCERN FOR NEW DIAGNOSIS OF MALIGNANCY. Patient is a very 
healthy gentleman with no real prior medical history.  He has 
not yet had a colonoscopy. CT scan on admission concerning for 
3.8 cm soft tissue pelvic mass with internal calcifications, 
with multiple adjacent calcified soft tissue nodules in the 
mesorectal fat and coursing superiorly along the IMV concerning 
for 
metastatic lymph nodes, and numerous hepatic metastases. ___ on 
arrival was 500 concerning for process with elevated cell 
turnover; uric acid has been stable on this admission. Other TLS 
labs have been unremarkable. Patient underwent ___ guided liver 
biopsy of hepatic lesion on ___ with preliminary read 
concerning for adenocarcinoma with likely GI primary. Heme/onc 
was consulted regarding the preliminary read and he was 
discharged with follow-up appointments set up as above with 
BI-oncology and ___ ___ opinion at the request of the 
patient).

# TRANSAMINITIS
# HEPATIC METASTASES. Mild elevation with AST/ALT in the ___, 
most likely due to his hepatic lesions, though steatosis from 
alcohol use may also be contributing. LFTs remained stable on 
discharge. Biopsy of a hepatic lesion seen on CT A/P was 
conducted and discussed as above. 

TRANSITIONAL ISSUES
====================
[ ] Reports drinking nearly a bottle of wine daily, advise 
reduction in ETOH use as indicated
[ ] F/u on final pathology of biopsied liver lesion, with 
preliminary read concerning for adenocarcinoma, with likely GI 
primary

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
PELVIC MASS 
HEPATIC LESIONS CONCERNING FOR METASTASES

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You presented to ___ after reporting right sided abdominal 
pain and a few months of sporadic rectal bleeding. A CT scan 
showed a mass in your pelvis and liver lesions. This CT scan is 
concerning for a malignancy with spread to the liver. One of 
these lesions was biopsied to determine what kind of growth it 
represents. A preliminary read of this biopsy showed 
adenocarcinoma though this may change depending on the final 
read of the biopsy which will take several days to finalize.

In the meantime, we have arranged follow-up appointments, as 
listed below, for the next steps in management. 

It was a pleasure taking care of you and we wish you the best.

Your ___ Team
 
Followup Instructions:
___